US03939164
A mixture of 65.7 g. (0.375 m.) of 2,3-dichlorobenzaldehyde and 39.4 g. (0.375 m.) of 2,2-dimethoxyethylamine was refluxed azeotropically in 150 cc. of toluene. When all the water was removed (1-2 hours), the solution was concentrated and distilled to give 2,2-dimethoxy-N-(2,3-dichlorobenzylidene)ethylamine, b.p. 140°C. (0.7 mm.).

reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 2,2-dimethoxyethylamine | COC(CN)OC | C4H11NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethoxy-N-(2,3-dichlorobenzylidene)ethylamine | COC(C(N)=CC1=C(C(=CC=C1)Cl)Cl)OC | C11H13Cl2NO2
